Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Optiray 350
 
Attending: ___.
 
Chief Complaint:
left breast pain/erythema w/ discharge
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ year old female with history of bilateral 
breast cancer, s/p bilateral mastectomy, and washout and removal 
of implant in left breast, presenting with unresolved erythema 
and drainage of her left chest.  She came to the hospital on 
___ for erythema and pain of the L breast, underwent washout 
and removal of implant in L breast, and treated initially with 
vanc/cipro, changed to Bactrim/cipro for 7-day course. She had a 
drain placed that was removed.  Since this hospitalization, the 
erythema never fully resolved, and has got worse in the days 
leading up to admission. Daily seropurulent drainage soaks her 
shirt if she does not wear gauze (which she has to change 
multiple times per day).  She denies fevers, but has 
occasionally felt chills.

 
Past Medical History:
 - Breast cancer  
 - Rheumatoid arthritis on Humira, prednisone
 - Hx of cerebellar stroke, in ___.  
 - Hypothyroidism
 - HTN
 - Pre-DM
 
Social History:
___
Family History:
Non-contributory  
 
Physical Exam:
ADMISSION:
=============
 VS: 98.3 131/68 71 16 98% RA  
 GENERAL: NAD, cachectic appearing female  
 HEENT: PERRL, anicteric sclera, MMM  
 NECK: supple, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 CHEST: Multiple surgical scars bilaterally. Large confluent 
area of erythema on the L chest, with marker placed around 
periphery of erythema. Very minor pocket of 
tenderness/fluctuance.  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles.  L-sided pleuritic pain with 
deep breath.
 ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing, or edema. Significant 
deformities to hands and feet bilaterally, ulnar deviation of 
fingers  

DISCHARGE:
=============
Vitals:   97.6 PO 128/77 R Sitting 70 17 100 Ra (___) 
 GENERAL: NAD, cachectic appearing female  
 HEENT: PERRL, anicteric sclera, MMM  
 NECK: supple, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 CHEST: Multiple surgical scars bilaterally. Area of erythema on 
the L chest has again decreased in size and erythema (size down 
by 60-70% from admission, mostly improved in upper part of 
lesion).  No focal area of tenderness.  Less drainage than 
yesterday.
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles.
 ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing, or edema. Significant 
deformities to hands and feet bilaterally, ulnar deviation of 
fingers    
NEURO:  Patient is AxOx4.  She was able to state name, location, 
days of week and months of year backwards.  

 
Pertinent Results:
ADMISSION LABS:
===================
___ 05:00PM BLOOD WBC-5.4 RBC-4.38 Hgb-12.0 Hct-39.6 MCV-90 
MCH-27.4 MCHC-30.3* RDW-15.1 RDWSD-50.2* Plt ___
___ 05:00PM BLOOD Neuts-78.7* Lymphs-12.4* Monos-6.3 
Eos-1.1 Baso-0.9 Im ___ AbsNeut-4.25 AbsLymp-0.67* 
AbsMono-0.34 AbsEos-0.06 AbsBaso-0.05
___ 05:00PM BLOOD Plt ___
___ 05:00PM BLOOD Glucose-74 UreaN-18 Creat-0.8 Na-137 
K-4.5 Cl-99 HCO3-26 AnGap-17

DISCHARGE LABS:
===================
___ 07:05AM BLOOD WBC-4.6 RBC-3.61* Hgb-10.1* Hct-32.6* 
MCV-90 MCH-28.0 MCHC-31.0* RDW-14.6 RDWSD-48.6* Plt ___
___ 07:05AM BLOOD Plt ___
___ 07:05AM BLOOD Glucose-75 UreaN-30* Creat-0.6 Na-138 
K-4.2 Cl-100 HCO3-27 AnGap-11
___ 07:05AM BLOOD Calcium-9.2 Phos-3.8 Mg-1.8

IMAGING:
===================
CT CHEST W/O CONTRAST     ___
1. Small amount of subcutaneous air is identified in the left 
anterior chest
wall at site of a prior procedure.  Radiodense material in the 
left anterior
chest wall may be related to prior surgery.  No abscess is 
identified within
the limits of noncontrast scan.
2. Multiple nodular opacities and ___ opacities in 
bilateral posterior
lower lobes are new since ___.  Findings may reflect infection, 
however
malignancy is difficult to rule out.  Consider follow-up CT to 
ensure
resolution.
3. Bronchiectasis and fibrotic changes in bilateral anterior 
lungs and lung
apices have progressed compared to ___, likely reflecting 
interval evolution
of radiation changes.
4. Severe compression fracture/complete collapse of T12 
vertebral body and
moderate compression fractures at T5, T6, T11, and L1 vertebral 
bodies are new
since ___.

MRI CHEST ___ W&W/O CONTRAST     ___
1.  Trace amount of fluid within left breast implant removal 
surgical cavity
with mild enhancement of the cavity and overlying skin may 
represent
granulomatous changes versus phlegmonous changes.  Some 
contiguous intercostal
enhancement is demonstrated extending from the superficial soft 
tissue process
towards the pleura.  Underlying pleuroparenchymal enhancement is 
demonstrated,
uncertain if this is related to contiguous inflammatory change 
versus sequela
of prior radiation change and chronic pleuroparenchymal 
scarring.  There is
however small left pleural effusion.
2.  Fragmentation of the proximal left clavicle is consistent 
with chronic
fracture.  No definite signs of osteomyelitis.  1-2 cm fluid 
pocket along the
inferior aspect of the left sternoclavicular joint with mild 
peripheral
enhancement may represent joint/effusion.
3.  Synovitis of the right shoulder without glenohumeral joint 
effusion may be
due to patient's underlying rheumatoid arthritis is less likely 
to be
infectious in the absence of localizing clinical concern this 
region.  Mild
bone marrow edema of the right humeral head may be reactive to 
underlying
process.
4.  Moderate amount of fluid within the right subcoracoid bursa 
with internal
debris and surrounding enhancement may be inflammatory due to 
patient
underlying rheumatoid arthritis or could be due to fracture of 
the coracoid
seen superiorly.
5.  1 cm fluid collection with peripheral enhancement medial to 
the right
coracoid may represent extension from subcoracoid bursal fluid 
or may be
related to fracture of the right coracoid process.  Right 
coracoid process
fracture is better seen on CT from ___, underlying 
lesion cannot be
excluded.

MICROBIOLOGY:
===================
SWAB OF EXUDATE     ___
STAPH AUREUS COAG +.    SPARSE GROWTH. 
CLINDAMYCIN-----------       R
DAPTOMYCIN------------       S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------       R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------   <=1 S

URINE CULTURE     ___
MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH SKIN
AND/OR GENITAL CONTAMINATION. 

STOOL     ___
Negative for toxigenic C. difficile by the Cepheid nucleic acid
amplification assay.
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of bilateral 
breast cancer, s/p bilateral mastectomy, and washout and removal 
of implant in L breast in ___ iso MRSA cellulitis, 
presenting with unresolved erythema and drainage of her left 
lateral chest and pleuritic pain. VSS. Physical exam notable for 
a large (8in x 5in) confluent area of erythema on the L lateral 
chest with mild serous drainage, TTP. Labs were unremarkable. 
Wound culture grew MRSA again. Infectious disease consulted and 
recommended MRI given high risk for osteomyelitis. MRI with 
nonspecific changes, unable to rule out osteomyelitis. 
Infectious disease determined risk of treating was far less than 
risk of not treating. Treatment was initiated Vancomycin with 
plan to continue for 6 weeks. After initiation of vancomycin, 
region of erythema, drainage and pain improved significantly. 

#Breast Cellulitis
The patient has a history of cellulitis of the affected area 
from ___, which she says never resolved, and worsened 
post-discharge until this admission.  Vital signs were stable on 
admission.  Physical exam revealed a large (8in x 5in)confluent 
area of erythema on the L chest, with marker placed around 
periphery of erythema. There was a minor 1cm x 1cm pocket of 
tenderness/fluctuance over the T4-T5 rib.  CT revealed no fluid 
collection.  Given concern for unresolved original infection, 
she was empirically treated with vancomycin to cover gram 
positives including MRSA, the cause of the original infection.  
Culture of seropurulent fluid identified MRSA.  Vancomycin was 
continued. PRS was consulted.
- Acetaminophen ___ mg PO/NG Q8H:PRN Pain 

#Possible Osteomyelitis
Given the cellulitis's proximity to bone, focal tenderness on 
ribs on exam, and L-sided pleuritic pain, there was concern for 
possible osteomyelitis.  MRI was could not definitely rule out 
osteomyelitis.  On discussion with radiology, further studies 
have a high chance of being equivocal.  With the pericardium so 
close to the ribs, the risk of undertreating the infection is 
much higher than the risk of IV antibiotics for 6 weeks the 
patient should take a 6-week course of IV antibiotics. 

#Cachexia  
The patient appears cachectic - 88 lbs on this admission, from 
130 lbs ___ years ago.  Her breast cancer oncologist was consulted 
about this, and a ___ was ordered.  Nutrition was 
consulted, and Ensure Enlive was added to the patient's diet.
-- Multivitamins 1 TAB PO DAILY  

#History of Breast cancer  
-- Anastrozole 1 mg PO DAILY  
-- Calcium Carbonate 500 mg PO/NG TID
-- Vitamin D 1000 UNIT PO/NG DAILY   

#RA on humira, prednisone  
-- Prednisone 5 mg PO/NG DAILY
-- Humera held

#Hx of cerebellar stroke, in ___  
-- Aspirin EC 325 mg PO DAILY 
-- Atorvastatin 10 mg PO/NG QPM   

#Hypothyroidism  
-- Levothyroxine Sodium 50 mcg PO/NG DAILY 

#HTN  
-- Lisinopril 2.5 mg PO/NG DAILY  

#Dry eyes
-- Artificial Tears ___ DROP BOTH EYES PRN dryness
-- PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES BID  

Transitional Issues:
1. Monitor PICC line (placed ___ for any signs of infection 
for 6-week course of IV Vancomycin. 
2. Follow up with infectious disease for ongoing antibiotics.
3. Follow patient's weight and ensure adequate PO intake. 
Nutrition recs below:
- Liberalize diet if able to encourage PO intake.
- Oral supplements: Ensure Enlive TID.
- Daily weights
4. Per infectious disease patient may need imaging at end of 
antibiotic course to ensure resolution of possible 
osteomyelitis. 
5. Given worsening arthritis, consider home OT services for 
patient. 
6. Follow up with plastic surgery for ongoing management. While 
inpatient, Infectious disease and plastic surgery felt there was 
nothing to be drained/debride. Continue to monitor serous output 
from wound and region of erythema/tenderness. 
7. CT chest notable for 
- Multiple nodular opacities and ___ opacities in 
bilateral posterior lower lobes are new since ___. Findings may 
reflect infection, however malignancy is difficult to rule out. 
Consider follow-up CT to ensure resolution. 
- Severe compression fracture/complete collapse of T12 vertebral 
body and moderate compression fractures at T5, T6, T11, and L1 
vertebral bodies are new since ___. 
We recommend follow-up chest CT to ensure resolution of new 
nodular 
opacities in bilateral lower lobes. Consider DEXA scan. 
8. Follow up with rheumatology for management of humira given 
active infection.
9. ___ CRP 73.8, Sed rate 38 (normal <30)
10. Continue to monitor diarrhea. C.diff negative while in house 

11. CA ___ ordered per oncology recommendation: 
CA ___ 26 <38 U/mL
12. Recommend vanc trough twice a week to ensure appropriate 
dose. 

Code: Full 
 
Medications on Admission:
 The Preadmission Medication list is accurate and complete.
1. Anastrozole 1 mg PO DAILY 
2. Aspirin EC 325 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Lisinopril 2.5 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. PredniSONE 5 mg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. flaxseed oil 1,000 mg oral DAILY 
10. Restasis 0.05 % ophthalmic BID 
11. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
12. adalimumab 40 mg/0.8 mL subcutaneous EVERY 2 WEEKS 
13. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  Artificial Tears ___ DROP BOTH EYES PRN dryness  
2.  Calcium Carbonate 500 mg PO TID  
3.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES BID  
4.  Vancomycin 750 mg IV Q 12H 
RX *vancomycin 1 gram 750 mg IV Q12 Disp #*84 Vial Refills:*0 
5.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
6.  Anastrozole 1 mg PO DAILY  
7.  Aspirin EC 325 mg PO DAILY  
8.  Atorvastatin 10 mg PO QPM  
9.  flaxseed oil 1,000 mg oral DAILY  
10.  Levothyroxine Sodium 50 mcg PO DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  PredniSONE 5 mg PO DAILY  
13.  Restasis 0.05 % ophthalmic BID  
14.  Vitamin D 1000 UNIT PO DAILY  
15. HELD- adalimumab 40 mg/0.8 mL subcutaneous EVERY 2 WEEKS  
This medication was held. Do not restart adalimumab until you 
speak with your primary doctor. This can exacerbate infection. 
16. HELD- Lisinopril 2.5 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you speak with your primary care 
doctor. Your blood pressure was a little low while in the 
hospital 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cellulitis
Possible Osteomyelitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you here at ___. 

What happened while you were at the hospital?
- You were admitted to the Medicine service for what appeared to 
be an unresolved skin infection called cellulitis from your 
prior admission in ___.  
- You had a very focal area of tenderness on your ribs, which 
indicated that you may have an underlying infection of the bone 
called osteomyelitis.
- We did an MRI of your chest to see if we could better 
visualize any bone infections.  The MRI was nonspecific, 
osteomyelitis could not be ruled out. 
- Infectious disease consulted to help guide the antibiotic 
course. They recommended treating for osteomyelitis.  
- A PICC was placed, and you were discharged with plans to take 
Vancomycin for 6 weeks.

What to do on discharge?
- Please have ___ services to help you with your treatment at 
home.
- Please complete a course of an antibiotic called vancomycin 
for 6 weeks. Please follow up with infectious disease in 2 weeks 
and then in 6 weeks. The appointment has been made for you.
- Please follow up with you primary care doctor. 
- Please follow up with your oncologist. 

We are happy to see you feeling better and wishing you all the 
best.

Sincerely,
Your ___ team
 
Followup Instructions:
___